US04735951
Using the procedure of Example 5, 5 g of 4-hydroxy-2-(1-hydroxypropyl)-N-(2-thiazolyl)-8-trifluoromethyl-3-quinoline carboxamide and 1.7 g of benzoic acid were reacted to obtain 4.65 g of 2-[1-(benzoyloxy)-propyl]-4-hydroxy-N-(2-thiazolyl)-8-(trifluoromethyl)-3-quinoline carboxamide melting at 230° C.

reactant | 4-hydroxy-2-(1-hydroxypropyl)-N-(2-thiazolyl)-8-trifluoromethyl-3-quinoline carboxamide | 5 g | OC1=C(C(=NC2=C(C=CC=C12)C(F)(F)F)C(CC)O)C(=O)NC=1SC=CN1 | C17H14F3N3O3S
reactant | benzoic acid | 1.7 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
product | 2-[1-(benzoyloxy)-propyl]-4-hydroxy-N-(2-thiazolyl)-8-(trifluoromethyl)-3-quinoline carboxamide | 4.65 g | C(C1=CC=CC=C1)(=O)OC(CC)C1=NC2=C(C=CC=C2C(=C1C(=O)NC=1SC=CN1)O)C(F)(F)F | C24H18F3N3O4S
